US06602897B2
5.8 g of paraformaldehyde and 15 ml of formic acid are dissolved in 15 ml of DMF and heated to 90° C.-100° C. A solution of 18 g of 4-bromo-2-methyl-3-nitroaniline in 15 ml of DMF is added dropwise within 10 minutes. After 2 hours, the mixture is added to about 600 ml of ice water and the aqueous phase is extracted with 300 ml of ether. The organic phase is washed with Na2CO3 (1M), filtered and evaporated down. The product is purified by chromatography (silica gel, eluant: petroleum ether/ethyl acetate (40/60). 15 g of N,N-dimethyl-4-bromo-2-methyl-3-nitroaniline is obtained as a brownish-orange oil.

reactant | paraformaldehyde | 5.8 g | C=O | CH2O
reactant | formic acid | 15 ml | C(=O)O | CH2O2
reactant | 4-bromo-2-methyl-3-nitroaniline | 18 g | BrC1=C(C(=C(N)C=C1)C)[N+](=O)[O-] | C7H7BrN2O2
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N,N-dimethyl-4-bromo-2-methyl-3-nitroaniline | 15 g | CN(C1=C(C(=C(C=C1)Br)[N+](=O)[O-])C)C | C9H11BrN2O2
